US08975254B2
b) 2-[5-(3,4-Dichlorophenyl)furan-2-yl]ethylamine hydrochloride
2-(3,4-Dichlorophenyl)-5-((E)-2-nitrovinyl)furan (5.73 g, 20.2 mmol) was dissolved into the mixture of dry methanol (90 ml) and dry ethyl acetate (70 ml). Then, 14.3 ml of 10 w-% HCl-methanol and 2.4 g of 10% palladium on carbon were added. 2-(3,4-Dichlorophenyl)-5-((E)-2-nitrovinyl)furan was hydrogenated at 3 atm at RT for about 4 h. The catalyst was removed by filtrating through Celite®. Removal of solvent under reduced pressure gave a raw product which was purified by flash chromatography on silica gel using CH2Cl2/MeOH (98:2-80:20) as a gradient eluent. 1H NMR (400 MHz, DMSO-d6): 3.04 (2H, m), 3.14 (2H, m), 6.43 (1H, d), 7.07 (1H, d), 7.67 (2H, s), 7.93 (1H, s), 8.19 (3H, broad s).

reactant | 2-(3,4-Dichlorophenyl)-5-((E)-2-nitrovinyl)furan | 20.2 mmol, 5.73 g | ClC=1C=C(C=CC1Cl)C=1OC(=CC1)\C=C\[N+](=O)[O-] | C12H7Cl2NO3
reactant | methanol | 90 ml | CO | CH4O
reactant | HCl methanol | Cl.CO
catalyst | palladium on carbon | 2.4 g | [Pd] | Pd
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 2-[5-(3,4-Dichlorophenyl)furan-2-yl]ethylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=CC=C(O1)CCN | InChI=1S/C12H11Cl2NO.ClH/c13-10-3-1-8(7-11(10)14)12-4-2-9(16-12)5-6-15;/h1-4,7H,5-6,15H2;1H
